US04686227
To 28% ammonium hydroxide (50 ml) was added 7-chloro-3-chloroformyl-2-methylimidazo[2,1-a]isoquinoline hydrochloride (1.3 g) and the mixture was stirred under ice-cooling for 40 minutes. The resulting precipitate was collected by filtration, washed with water and recrystallized from a mixture of chloroform and methanol to give 3-carbamoyl-7-chloro-2-methylimidazo[2,1-a]isoquinoline (0.75 g).

reactant | 7-chloro-3-chloroformyl-2-methylimidazo[2,1-a]isoquinoline hydrochloride | 1.3 g | Cl.ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3C(=O)Cl)C
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
product | 3-carbamoyl-7-chloro-2-methylimidazo[2,1-a]isoquinoline | 0.75 g | C(N)(=O)C1=C(N=C2N1C=CC1=C(C=CC=C21)Cl)C | C13H10ClN3O
